US06723716B1
4-[(2-tert-Butoxycarbonylaminoethyl)thiomethyl]-2-methyl-5-(2-phenylsulfonylethyl)thio-1,3-thiazole
To a stirred solution of 4-acetylthiomethyl-2-methyl-5-(2-phenylsulfonylethyl)thio-1,3-thiazole (235 mg, 0.63 mmol) and 2-bromoethyl amine hydrochloride (260 mg, 1.26 mmol) in a mixed solvent of methanol (10 mL) and tetrahydrofuran (1 mL) was dropwise added 0.5 M sodium methoxide in methanol (3.8 mL). Di-tert-butyl dicarbonate (660 mg, 3.0 mmol) was then added, and was stirred at room temperature for 0.5 h. The mixture was diluted with ethyl acetate, washed with brine, and concentrated. The residue was chromatographed on silica gel (1 to 3% methanol/dichloromethane), affording 190 mg of the title compound. 1H NMR (CDCl3) δ 1.42 (9H), 2.62 (3H), 3.64 (2H), 3.02 (2H), 3.38 (4H), 5.15 (br s, 1H), 7.5-7.9 (5H).

reactant | 4-acetylthiomethyl-2-methyl-5-(2-phenylsulfonylethyl)thio-1,3-thiazole | 0.63 mmol, 235 mg | C(C)(=O)SCC=1N=C(SC1SCCS(=O)(=O)C1=CC=CC=C1)C | C15H17NO3S4
reactant | 2-bromoethyl amine hydrochloride | 1.26 mmol, 260 mg | Cl.BrCCN
reactant | sodium methoxide | 0.5 M | C[O-].[Na+]
reactant | Di-tert-butyl dicarbonate | 3.0 mmol, 660 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 3.8 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 4-[(2-tert-Butoxycarbonylaminoethyl)thiomethyl]-2-methyl-5-(2-phenylsulfonylethyl)thio-1,3-thiazole | 190 mg | C(C)(C)(C)OC(=O)NCCSCC=1N=C(SC1SCCS(=O)(=O)C1=CC=CC=C1)C | C20H28N2O4S4
